US06462032B1
5-bromo-2-indolinone (1.08 g, 5.09 mmol) and tetrakistriphenyl phosphine Pd (0) (0.273 g) were stirred under an atmosphere of nitrogen in ethylene glycol dimethyl ether (35 mL). After 15 minutes, 3-nitrophenyl boronic acid (1.70 g, 10.2 mmol) was added, followed by potassium carbonate (4.24 g, 30.7 mmol) in water (15 mL). The reaction was heated to reflux overnight, cooled to room temperature and then filtered. Saturated ammonium chloride was added. The water layer was extracted with ethyl acetate (3×20 mL). The combined organic layer was dried MgSO4, filtered, and solvent removed in vacuo. Product purified by flash silica gel chromatography; eluted: 3:2 hexane; ethyl acetate, to give 5-(3-Nitro-phenyl)-1,3-dihydro-indol-2-one (0.084 g, 65%), Mp=269° C.; 1H NMR (DMSO) δ 10.5 (s, 1H), 8.38-8.36 (m, 1H) 8.17-8.14 (m, 1H), 8.10-8.07 (m, 1H), 7.75-7.60 (m, 3H), 6.95 (d, 1H, J=8.1 Hz), 3.57 (s, 2H); IR (KBr) 3420, 3190, 1700 cm−1; MS (EI) m/z 253 (M−H)−; CHN calculated for C14H10N2O: C, 66.14; H, 3.96; N, 11.02; Found: C, 64.59; H, 4.16; N, 9.43.

reactant | 5-bromo-2-indolinone | 5.09 mmol, 1.08 g | BrC=1C=C2CC(NC2=CC1)=O | C8H6BrNO
reactant | 3-nitrophenyl boronic acid | 10.2 mmol, 1.70 g | [N+](=O)([O-])C=1C=C(C=CC1)B(O)O | C6H6BNO4
reactant | potassium carbonate | 30.7 mmol, 4.24 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethylene glycol dimethyl ether | 35 mL | COCCOC | C4H10O2
solvent | water | 15 mL | O | H2O
catalyst | tetrakistriphenyl phosphine Pd (0) | 0.273 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-(3-Nitro-phenyl)-1,3-dihydro-indol-2-one | 0.084 g, 65% | [N+](=O)([O-])C=1C=C(C=CC1)C=1C=C2CC(NC2=CC1)=O | C14H10N2O3
